US08664216B2
1′-Benzyl-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (0.622 g, 2 mmol) was suspended in ethanol (6 ml). The mixture was acidified with a few drops of HCl 37%. Pd/C 10% (65 mg, 0.06 mmol) was added. The mixture was refluxed under an hydrogen atmosphere for 1 hour then cooled to room temperature, purged with argon and diluted with dichloromethane. The catalyst was filtered and the filtrate was concentrated in vacuo. The white solid was dissolved in water (20 ml). The solution was basified with a 2M Na2CO3 solution and extracted 3 times with dichloromethane. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to yield 0.42 g (96%) 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one as a white solid. MS m/e: 222 (M+H+).

reactant | 1′-Benzyl-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 2 mmol, 0.622 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C19H18FNO2
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | HCl | a few drops | Cl | ClH
catalyst | Pd/C | 0.06 mmol, 65 mg | [Pd] | Pd
product | 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 0.42 g, 96% | FC1=CC2=C(C=C1)C1(CCNCC1)OC2=O | C12H12FNO2
